US06121285
1-Benzyloxycarbonyl-3-(S)-tert-butyldimethylsilyloxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine
3-(S)-Tert-butyldimethylsilyloxy-4-(R)-(1-ethoxycarbonylcyclopropyl)-1-[1-(S)-phenylethyl]pyrrolidine (5.48 g, 13.15 mmol) was dissolved in dry dichloromethane (120 ml), and benzyl chloroformate (3.76 ml, 26.3 mmol) was added dropwise to the thus prepared solution which was cooled in an ice bath. After heating the reaction solution under reflux for 2 hours, dichloromethane was evaporated under reduced pressure. Thereafter, the resulting residue was subjected to flash silica gel chromatography and eluted with an eluant of n-hexane:ethyl acetate=5:1, to thereby obtain 4.52 g (77%) of the title compound as a colorless oil.

reactant | 3-(S)-Tert-butyldimethylsilyloxy-4-(R)-(1-ethoxycarbonylcyclopropyl)-1-[1-(S)-phenylethyl]pyrrolidine | 13.15 mmol, 5.48 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CN(C[C@H]1C1(CC1)C(=O)OCC)[C@@H](C)C1=CC=CC=C1 | C24H39NO3Si
reactant | benzyl chloroformate | 26.3 mmol, 3.76 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-3-(S)-tert-butyldimethylsilyloxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine | 4.52 g, 77% | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C1(CC1)C(=O)OCC)O[Si](C)(C)C(C)(C)C | C24H37NO5Si
